US07112638B2
A solution of 2,5-dimethyl-3-phenyl-5,6-dihydro-4H-cyclopenta[b]thiophene-4-one (4.4 g, 18 mmol) in 50 mL of ether was slowly added to a solution of LiAlH4 (0.35 g, 9 mmol) in 50 mL of ether and stirred overnight. The resulting suspension was poured into a mixture of ice and water, the organic layer was isolated, while the water layer was extracted with ether (3×50 mL). The combined organic layers were washed with water, dried over MgSO4 and evaporated off to dryness. The 2,5-dimethyl-3-phenyl-5,6-dihydro-4H-cyclopenta[b]thiophen-4-ol so obtained was dissolved in 100 mL of benzene, added of 1 g of p-toluenesulfonic acid and was refluxed for 10 min. Then the reaction mixture was cooled to room temperature and treated with a saturated aqueous solution of Na2CO3. The organic phase was isolated, dried over MgSO4 and evaporated off to dryness. The residue was passed through a column packed with Al2O3 by using hexane as eluent. The evaporation of the yellow fraction was given the crystallized product. Yield 1.5 g (37% based on the starting ketone).

reactant | 2,5-dimethyl-3-phenyl-5,6-dihydro-4H-cyclopenta[b]thiophene-4-one | 18 mmol, 4.4 g | CC1=C(C2=C(S1)CC(C2=O)C)C2=CC=CC=C2 | C15H14OS
reactant | LiAlH4 | 9 mmol, 0.35 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2,5-dimethyl-3-phenyl-5,6-dihydro-4H-cyclopenta[b]thiophen-4-ol | CC1=C(C2=C(S1)CC(C2O)C)C2=CC=CC=C2 | C15H16OS
